US05169868
N-(2-Decyl)-N-methylpropargylamine hydrochloride (2-DMPP).
2-Bromodecane (8.84 g, 40 mmoles) and N-methylpropargylamine (5.52 g, 80 mmoles) were heated in absolute ethanol (50 mL) for 72 h. to give, after treatment with 40 mmoles of ethanolic hydrochloric acid, the title compound in a yield of 100% (75% after recrystallization from methanol-ether), m.p.=130°-131° C.

reactant | 2-Bromodecane | 40 mmoles, 8.84 g | BrC(C)CCCCCCCC | C10H21Br
reactant | N-methylpropargylamine | 80 mmoles, 5.52 g | CNCC#C | C4H7N
reactant | hydrochloric acid | 40 mmoles | Cl | ClH
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | N-(2-Decyl)-N-methylpropargylamine hydrochloride | yield of 100% | Cl.CC(CCCCCCCC)N(C)CC#C | InChI=1S/C14H27N.ClH/c1-5-7-8-9-10-11-12-14(3)15(4)13-6-2;/h2,14H,5,7-13H2,1,3-4H3;1H
